US04670465
10-Phenoxydeca-2,5,8-triyn-1-ol tetrahydropyranyl ether
To a cold (-20° C.) solution of 2.879 g (0.0161 mol) of hexa-2,5-diyn-1-ol tetrahydropyranyl ether [D. Van der Steen et al, Recueil 82, 1015 (1963)] in 30 ml of tetrahydrofuran, there were added dropwise, under argon atmosphere, 4.0 ml (2.15 g, 0.016 mol) of a 4.05N solution of ethylmagnesium bromide in ether, maintaining the temperature at -20° C. After the addition was finished, the reaction mixture was stirred for 2 hours further at -20° C. Then, 52.8 mg (0.53 mmol) of cuprous chloride was added. The mixture was stirred for 20 additional minutes, warmed to room temperature and 2.2 g (0.008 mol) of 1-iodo-4-phenoxybut-2-yne were added. The reaction mixture was then stirred at room temperature for 3 hours, poured into 50 ml of saturated ammonium chloride solution and extracted with ether. The combined extracts were dried and evaporated in vacuo. The residue was purified by column chromatography on 80 g of silica gel, using hexane-ether (90:10) as eluant, thus obtaining 10-phenoxydeca-2,5,8-triyn-1-ol tetrahydropyranyl ether, as an oil.

reactant | hexa-2,5-diyn-1-ol tetrahydropyranyl ether | 0.0161 mol, 2.879 g | O1C(CCCC1)OCC#CCC#C | C11H14O2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 1-iodo-4-phenoxybut-2-yne | 0.008 mol, 2.2 g | ICC#CCOC1=CC=CC=C1 | C10H9IO
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 10-Phenoxydeca-2,5,8-triyn-1-ol tetrahydropyranyl ether | O1C(CCCC1)OCC#CCC#CCC#CCOC1=CC=CC=C1 | C21H22O3
